US07713998B2
ethyl 1-(2,6-dichlorophenyl)-2-hydroxy-6-oxopiperidine-3-carboxylate
Under an atmosphere of nitrogen, to a solution of ethyl 5-[(2,6-dichlorophenyl)amino]-5-oxopentanoate (9.22 g, the compound described in Reference Example 1 of WO03/043988) in tetrahydrofuran (150 mL) were added a solution of lithium bis(trimethylsilyl)amide (1.6 mol/L) in tetrahydrofuran (56.8 mL) and ethyl formate (4.90 mL) at −78° C. and the mixture was stirred on ice bath for 2 hours and then at room temperature for 4 days. The reaction mixture was added by hydrochloric acid (1 mol/L) and ethyl acetate on ice bath, then the water layer was extracted with ethyl acetate. The obtained extract was dried with anhydrous sodium sulfate, filtrated and concentrated to give the title compound. The obtained compound was used in the following reaction without further purification.

reactant | ethyl 5-[(2,6-dichlorophenyl)amino]-5-oxopentanoate | ClC1=C(C(=CC=C1)Cl)NC(CCCC(=O)OCC)=O | C13H15Cl2NO3
reactant | lithium bis(trimethylsilyl)amide | 1.6 mol/L | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 56.8 mL | O1CCCC1 | C4H8O
solvent | ethyl formate | 4.90 mL | C(=O)OCC | C3H6O2
product | ethyl 1-(2,6-dichlorophenyl)-2-hydroxy-6-oxopiperidine-3-carboxylate | ClC1=C(C(=CC=C1)Cl)N1C(C(CCC1=O)C(=O)OCC)O | C14H15Cl2NO4
